US07745438B2
(R)-4-[(1S,2S)-2-Dibenzylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Add benzyl bromide (75 mL, 630.55 mmol) to a suspension of potassium carbonate (85 g, 615.006 mmol) and (R)-4-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (80 g, 207.25 mmol) in acetonitrile (900 mL). Heat to reflux for 16 hours, cool to room temperature, and dilute with ethyl acetate (2 L). Wash with ammonium chloride (1.5 L), saturated aqueous sodium chloride (1.5 L), dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 5:95 to 20:80 ethyl acetate:hexanes) to give the desired compound as a white solid (102.1 g, 87%).

reactant | benzyl bromide | 630.55 mmol, 75 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 615.006 mmol, 85 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-4-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 207.25 mmol, 80 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)(C)C | C19H28F2N2O4
solvent | acetonitrile | 900 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | (R)-4-[(1S,2S)-2-Dibenzylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 102.1 g, 87% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)(C)C | C33H40F2N2O4
